US04891363
dl-trans-2-Benzyloxymethyl-3-(tetrahydropyran-2-yloxy)tetrahydropyran
2.22 g of dl-trans-2-benzyloxymethyltetrahydropyran-3-ol (prepared as described in Preparation 2), 2.65 ml of dihydropyran and 0.05 g of pyridinium p-toluenesulfonate were dissolved in 40 ml of methylene chloride, and the mixture was stirred at room temperature for 4 hours. The solvent was then distilled off to give a residue, which was subjected to column chromatography through 80 g of silica gel. Those fractions eluted with mixtures of hexane and diethyl ether ranging from 6:1 to 5:1 by volume were worked up, to afford 2.93 g of the title compound as a colorless oil.

reactant | trans-2-benzyloxymethyltetrahydropyran-3-ol | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@H]1O | C13H18O3
reactant | dihydropyran | 2.65 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | trans-2-Benzyloxymethyl-3-(tetrahydropyran-2-yloxy)tetrahydropyran | 2.93 g | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@H]1OC1OCCCC1 | C18H26O4
